Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
nephrolithiasis; complex
 
Major Surgical or Invasive Procedure:
Creation of Percutaneous Renal Access, Left Percutaneous 
Nephrolithotomy, Left Ureteroscopy with Stone Manipulation, Left 
Ureteral Stent Placement 

 
History of Present Illness:
Mrs. ___ is a ___ woman with an 
enlarging symptomatic 2.1 cm left renal pelvis stone as well as 
1 addditional stone. 
 
Past Medical History:
DEPRESSIVE DISORDER                                             
ELEVATED BLOOD PRESSURE                                         
TACHYCARDIA                                              
CHOLECYSTECTOMY                                                 

NEUROMA                                                         
left foot                                                       

___                                                   
left                                                            

BREAST REDUCTION                                                

 
Social History:
___
Family History:
[n] Nephrolithiasis
[n] Malignant Hyperthermia
[n] Renal Cell CA
[n] Testisa CA
[n] Prostate CA
[n] Bladder CA

 
Physical Exam:
Gen: Awake, alert, non-toxic appearing
Pulm: non-labored breathing, no audible wheezes, no respiratory
distress
Abd: soft, NTND
GU: left flank dressing intact with no staining, no flank 
tenderness or hematoma
Ext: wwp. 

 
Pertinent Results:
___ 10:20AM BLOOD WBC-7.9 RBC-3.29* Hgb-10.0* Hct-30.7* 
MCV-93 MCH-30.4 MCHC-32.6 RDW-12.5 RDWSD-43.3 Plt ___
___ 06:35AM BLOOD WBC-7.8 RBC-3.44* Hgb-10.4* Hct-32.1* 
MCV-93 MCH-30.2 MCHC-32.4 RDW-12.5 RDWSD-43.1 Plt ___

___ 06:35AM BLOOD Glucose-91 UreaN-15 Creat-0.7 Na-143 
K-4.3 Cl-106 HCO3-27 AnGap-10

___ 10:59 am URINE     Site: CYSTOSCOPY      LT RENAL 
PELVIC. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    ~100 CFU/mL. 
 
Brief Hospital Course:
Ms. ___ was admitted to Dr. ___ for 
nephrolithiasis management with a known staghorn calculus on the 
left and she underwent creation of percutaneous renal access for 
placement of left percutaneous nephrostomy tube and left 
ureteral stent placement. She tolerated the procedure well and 
recovered in the PACU before transfer to the general surgical 
floor. See the dictated operative note for full details. 
Overnight, the patient was hydrated with intravenous fluids and 
received appropriate perioperative prophylactic antibiotics. On 
POD1, urethral catheter was removed and she voided without 
incident. At discharge on POD1, patient’s pain was controlled 
with oral pain medications, tolerating regular diet, ambulating 
without assistance, and voiding without difficulty.  She was 
explicitly advised to follow up as directed as the indwelling 
ureteral stent must be removed and or exchanged.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 50 mg PO DAILY 
2. olmesartan 5 mg oral DAILY 
3. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg ONE capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0 
2.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
RX *ibuprofen 600 mg ONE tablet(s) by mouth Q8hrs Disp #*20 
Tablet Refills:*0 
3.  Oxybutynin 5 mg PO TID:PRN bladder spasms 
RX *oxybutynin chloride 5 mg ONE tablet(s) by mouth q8hrs Disp 
#*10 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg one tablet(s) by mouth Q6hrs Disp #*10 Tablet 
Refills:*0 
5.  Phenazopyridine 100 mg PO TID:PRN catheter discomfort 
Duration: 3 Days 
RX *phenazopyridine [Pyridium] 100 mg ONE tablet(s) by mouth 
Q8hrs Disp #*9 Tablet Refills:*0 
6.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin [Flomax] 0.4 mg ONE capsule(s) by mouth once a 
day Disp #*14 Capsule Refills:*0 
7.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever  
8.  Sertraline 50 mg PO DAILY  
9. HELD- olmesartan 5 mg oral DAILY  This medication was held. 
Do not restart olmesartan until ___.  Recheck BP at 
___ before restarting. OK to resume if SBP >130

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Kidney Stone, nephrolithiasis, complex

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-You can expect to see occasional blood in your urine and to 
possibly experience some urgency and frequency over the next 
month;  this may be related to the passage of stone fragments or 
the indwelling ureteral stent.  You may aslo experience some 
pain associated with spasm of your ureter.

-The kidney stone may or may not have been removed AND/or there 
may be fragments/others still in the process of passing.

-Ureteral stents MUST be removed or exchanged and therefore it 
is IMPERATIVE that you follow-up as directed. 

-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-Resume your pre-admission/home medications EXCEPT as noted. You 
should ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.  HOLD ASPIRIN and aspirin containing products for one 
week unless otherwise advised.

***OLMESARTAN was held. Do not restart olmesartan until 
___. Recheck BP at ___ before restarting. OK to 
resume if SBP >130. Please call your pcp if you have questions.  
  

-IBUPROFEN (the ingredient of Advil, Motrin, etc.) may be taken 
even though you may also be taking Tylenol/Acetaminophen. You 
may alternate these medications for pain control. For pain 
control, try TYLENOL FIRST, then ibuprofen, and then take the 
narcotic pain medication as prescribed if additional pain relief 
is needed.

-Ibuprofen should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark, tarry stools)

-You MAY be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

•AVOID lifting/pushing/pulling items heavier than 10 pounds (or 
3 kilos; about a gallon of milk) or participate in high 
intensity physical activity (which includes intercourse) until 
you are cleared by your Urologist in follow-up.

-No DRIVING for THREE WEEKS or until you are cleared by your 
Urologist

-You may shower normally but do NOT immerse your nephrostomy 

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-You may be given “prescriptions” for a stool softener and/or a 
gentle laxative. These are  over-the-counter medications that 
may be “health care spending account reimbursable.” 

-Colace (docusate sodium) may have been prescribed to avoid 
post-surgical constipation or constipation related to use of 
narcotic pain medications. Discontinue if loose stool or 
diarrhea develops. Colace is a stool-softener, NOT a laxative.

-Senokot (or any gentle laxative) may have been prescribed to 
further minimize your risk of constipation. 

-If you have fevers > ___ F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room.
 
Followup Instructions:
___